US04374267
A first solution of 3.32 parts of 3-fluorophthalic anhydride in 43 parts of dimethoxyethane was prepared. Separately, 86 parts of dimethoxyethane was added to a reaction vessel and ammonia was bubbled in to form a saturated solution of ammonia in dimethoxyethane. The ammonia addition was continued to maintain an excess while the 3-fluorophthalic anhydride solution was added to the ammonia/dimethoxyethane solution, slower with stirring over a 40 minute period. When all of the 3-fluorophthalic anhydride had been added, the ammonia addition was stopped and the reaction mixture was stirred for an additional five minute period to assure completion of the reaction. The dimethoxyethane was removed under reduced pressure. The remaining crude product was analyzed by C13 nuclear magnetic resonance 3-fluorophthalamic acid. A portion of the salt was dissolved in water, acidified, with concentrated hydrochloric acid to a pH of about 2.0, then cooled to form a white crystalline 3-fluorophthalamic acid having a melting point of 129°-132° C.

reactant | ammonia | N | H3N
reactant | 3-fluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | ammonia dimethoxyethane | N.C(OC)COC
product | 3-fluorophthalamic acid | FC1=C(C(C(=O)O)=CC=C1)C(=O)N | C8H6FNO3
